US05081237
To a solution of allyl 2-[(3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]glyoxylate (0.44 g) in toluene (15 ml) was added triethyl phosphite (0.61 ml) and the resulting mixture was heated to 90° C. for 15 hours under nitrogen atmosphere. After evaporation of the solvent in vacuo, to the residue were added xylene (20 ml) and hydroquinone (20 mg) and the resulting mixture was heated to reflux for 10 hours under nitrogen atmosphere. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (50 ml) eluting with a mixture of n-hexane and ethyl acetate (8:2-1:1 V/V) to give allyl (5R,6S)-3-[2-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]- 7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.26 g).

reactant | allyl 2-[(3S,4R)-4-[4-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-3-methyl-2-oxo-3-butenyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]glyoxylate | 0.44 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(N(C)C)=O)C=C(C(C[C@@H]1[C@H](C(N1C(C(=O)OCC=C)=O)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C32H49N3O10Si
reactant | triethyl phosphite | 0.61 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | allyl (5R,6S)-3-[2-{(2S,4R)-1-allyloxycarbonyl-4-(dimethylcarbamoyloxy)pyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]- 7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.26 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OC(N(C)C)=O)C=C(C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C32H49N3O8Si
